US03992389
p-(4-Chlorobutyryl)phenol (130 g 4-benzamidopiperidine (134 g) triethylamine (70 g.) and dimethylformamide were stirred at 60° C for 2 days allowed to stand overnight then filtered. The filtrate was diluted with a large volume of diethyl ether whereupon an oil precipitatedwhich crystallised after being allowed to stand. This precipitate was filtered off, washed with diethyl ether then water, dried and converted tothe hydrochloride using hydrogen chloride gas dissolved in a mixture of isopropyl alcohol and ethanol to afford 4-benzamido-1-[4-(4-hydroxyphenyl)-4-oxobutyl]piperidine hydrochloride (43.5 g. 16%) m.p. 276° C. Analysis: Found: C, 65.60; H, 6.73; N, 6.75% C22H26N2O3HCl requires C, 65.80; H, 6.78; N,6.97%.

reactant | p-(4-Chlorobutyryl)phenol | ClCCCC(=O)C1=CC=C(C=C1)O | C10H11ClO2
reactant | 4-benzamidopiperidine | 130 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-benzamido-1-[4-(4-hydroxyphenyl)-4-oxobutyl]piperidine hydrochloride | 43.5 g, 16% | Cl.C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)O | InChI=1S/C22H26N2O3.ClH/c25-20-10-8-17(9-11-20)21(26)7-4-14-24-15-12-19(13-16-24)23-22(27)18-5-2-1-3-6-18;/h1-3,5-6,8-11,19,25H,4,7,12-16H2,(H,23,27);1H
